US07288658B2
d) 6-Chloro-4-o-tolyl-nicotinonitrile
A mixture of 2.5 g (11.89 mmol) 6-hydroxy-4-o-tolyl-nicotinonitrile, 3.64 g (23.78 mmol) phosphorus oxychloride in 10.0 ml dichloromethane was heated at 50° C. for 80 minutes. The mixture was cooled down to 20-25° C., poured on water by keeping the internal temperature between 20-30° C. and extracted by adding additional 80.0 ml dichloromethane. Evaporation of the organic phase in vacuo gave 2.9 g of crude product of 6-chloro-4-o-tolyl-nicotinonitrile which was purified by chromatography over silica gel (ethylacetate:hexane=4:1) to afford 2.4 g of, m.p. 112.4° C.

reactant | 6-hydroxy-4-o-tolyl-nicotinonitrile | 11.89 mmol, 2.5 g | OC1=NC=C(C#N)C(=C1)C1=C(C=CC=C1)C | C13H10N2O
reactant | phosphorus oxychloride | 23.78 mmol, 3.64 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dichloromethane | 10.0 ml | ClCCl | CH2Cl2
product | 6-Chloro-4-o-tolyl-nicotinonitrile | 2.9 g | ClC1=NC=C(C#N)C(=C1)C1=C(C=CC=C1)C | C13H9ClN2
